US04851531
605 g of 4(5)-cyano-1-methylcyclohexene were dissolved in 500 ml of liquid ammonia in a stirrer autoclave and hydrogenated at 90° C. and at a hydrogen pressure of 100 bar over 40 g of Raney nickel iron. After evaporating the ammonia, the mixture was filtered from the catalyst and distilled under vacuum. 550 g (88%) of 4(5)-aminomethyl-1-methylcyclohexene, b.p.10 78° to 80° C. were obtained. The ratio by weight of the 4- and 5-isomers was about 80:20.

reactant | 4(5)-cyano-1-methylcyclohexene | 605 g | C(#N)[C@@H]1CC=C(CC1)C | C8H11N
reactant | hydrogen | [H][H] | H2
solvent | ammonia | N | H3N
product | 4(5)-aminomethyl-1-methylcyclohexene | 550 g, 88% | NC[C@@H]1CC=C(CC1)C | C8H15N
